US07371747B2
Synthesis of (5R/S,6R/S)-N-(cyanomethyl)-6-{[(4-fluorophenyl)sulfanyl]methyl}spiro[2.4]-heptane-5-carboxamide
To (5R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]methyl}spiro[2.4]heptane-5-carboxylic acid (59 mg, 0.21 mmol) was added aminoacetonitrile hydrochloride (30 mg, 0.32 mmol) and benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (120 mg, 0.23 mmol) and dimethylformamide (0.70 mL). The reaction mixture was cooled to 0° C. and triethylamine (90 PL, 0.65 mmol) was added. After stirring for 11 h, the reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated and washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated. Chromatography of the residue on silica gel with 35:65 ethyl acetate:hexanes provided the title compound as a of a colorless, waxy solid. 1H NMR (500 MHz, acetone-d6): δ=7.76 (1H, br s), 7.40 (2H, dd), 7.08 (2H, t), 4.22 (2H, d), 3.15 (1H, dd), 2.93 (1H, dd), 2.75 (1H, dd), 2.66 (1H, m), 1.90 (1H, dd), 1.86 (1H, dd), 1.50 (1H, dd), 0.45 (4H, m). MS [APCI, (M−H)−] m/z=317.0 amu.

reactant | (5R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]methyl}spiro[2.4]heptane-5-carboxylic acid | 0.21 mmol, 59 mg | FC1=CC=C(C=C1)SCC1C(CC2(CC2)C1)C(=O)O | C15H17FO2S
reactant | aminoacetonitrile hydrochloride | 0.32 mmol, 30 mg | Cl.NCC#N
reactant | tripyrrolidinophosphonium hexafluorophosphate | 0.23 mmol, 120 mg | F[P-](F)(F)(F)(F)F.N1(CCCC1)[PH+](N1CCCC1)N1CCCC1
reactant | triethylamine | 0.65 mmol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 0.70 mL | CN(C=O)C | C3H7NO
product | (5R/S,6R/S)-N-(cyanomethyl)-6-{[(4-fluorophenyl)sulfanyl]methyl}spiro[2.4]-heptane-5-carboxamide | C(#N)CNC(=O)C1CC2(CC2)CC1CSC1=CC=C(C=C1)F | C17H19FN2OS
